US05362744
(a) (±)2-[(8-Bromooctyl)oxy]tetrahydro-2H-pyran
To a stirred, room temperature suspension of Amberlyst 15 resin (2.37 g) in a solution of 8-bromo-1-octanol (9.50 g, 0.0454 mol) in heptane (95 mL) was added dropwise neat 3,4-dihydro-2H-pyran (5.0 mL, 0.055 mol) under a nitrogen atmosphere, and the mixture was stirred for 22 hours. The resin was filtered off, and the filtrate was rotoevaporated to an oil. The oil was chromatographed on silica gel (400 g, 230-400 mesh) using PET ether-diethyl ether (10:1, 10×500 mL) as eluent. Fractions containing title compound were rotoevaporated and dried in vacuo to give a clear, colorless oil, yield 10.92 g (82%). 1H NMR (CDCl3): δ 4.6 (dd, 1H), 3.9 (m, 1H), 3.8 (m, 1H), 3.5 (m, 1H), 3.4 (m, 3H), 1.8 (m, 3H), 1.7 (m, 1H), 1.6 (m, 6H), 1.4 (m, 1H), 1.3 (m, 7H).

reactant | 8-bromo-1-octanol | 0.0454 mol, 9.50 g | BrCCCCCCCCO | C8H17BrO
reactant | 3,4-dihydro-2H-pyran | 0.055 mol, 5.0 mL | O1CCCC=C1 | C5H8O
solvent | heptane | 95 mL | CCCCCCC | C7H16
product | (±)2-[(8-Bromooctyl)oxy]tetrahydro-2H-pyran | BrCCCCCCCCOC1OCCCC1 | C13H25BrO2
